US03948918
3.5 G of phenylisocyanate are added dropwise to a stirred solution of 7.78 g of 3-[2-(4-aminopiperazin-1-yl) ethyl]-5,6-dimethoxy-2-methylindole in 100 ml. of dry methylene chloride while maintaining the reaction temperature below 35° C. After 2 hours, 50 ml. of ether are added, the product is filtered and washed with ether. The product is recrystallized from ethyl acetate to give a white solid, m.p. 170°-173°C. of 1-[1-(5,6 -dimethoxy-2-methylindol-3-ylethyl)piperazin-4-yl]-3-phenylurea.

reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-[2-(4-aminopiperazin-1-yl) ethyl]-5,6-dimethoxy-2-methylindole | 7.78 g | NN1CCN(CC1)CCC1=C(NC2=CC(=C(C=C12)OC)OC)C | C17H26N4O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-[1-(5,6 -dimethoxy-2-methylindol-3-ylethyl)piperazin-4-yl]-3-phenylurea | COC=1C=C2C(=C(NC2=CC1OC)C)CCN1CCN(CC1)NC(=O)NC1=CC=CC=C1 | C24H31N5O3
